US04416820
In the same manner as Example 5, Z-Trp-OBZl (15.0 g, 35 mM) and 4-methoxy-2,3,6-trimethylbenzenesulfonyl chloride were reacted in dichloromethane (500 ml) in the presence of sodium hydroxide (17.8 g, 0.44 M). The reaction product was then hydrolyzed with an aqueous solution of sodium hydroxide to give Z-Trp(Mtr)-OH. Yield 19.0 g (98.4%); m.p. 71°-74° C.; [α]D24 -41.6° (c=0.9, DMF).

reactant | Z-Trp-OBZl | 35 mM, 15.0 g | C1=CC=C(C=C1)COC(=O)[C@H](CC2=CNC3=CC=CC=C32)NC(=O)OCC4=CC=CC=C4 | C26H24N2O4
reactant | 4-methoxy-2,3,6-trimethylbenzenesulfonyl chloride | COC1=C(C(=C(C(=C1)C)S(=O)(=O)Cl)C)C | C10H13ClO3S
reactant | sodium hydroxide | 0.44 M, 17.8 g | [OH-].[Na+]
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | Z-Trp(Mtr)-OH | N([C@@H](CC1=CN(C2=CC=CC=C12)S(=O)(=O)C1=C(C)C=C(OC)C(C)=C1C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C29H30N2O7S
